US07851473B2
4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-4-ylpiperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl pyridin-4-ylcarbamate (360 mg, 1.33 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (360 mg, 1.47 mmol) and diisopropylethylamine (0.256 ml, 1.47 mmol) in dimethyl sulfoxide (4.4 ml) was stirred at 70° C. for 8 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 93.7 mg (19.2%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-4-ylcarbamate | 1.33 mmol, 360 mg | N1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 1.47 mmol, 360 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 1.47 mmol, 0.256 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 4.4 ml | CS(=O)C | C2H6OS
product | 4-(4-Phenyl-1,3-thiazol-2-yl)-N-pyridin-4-ylpiperazine-1-carboxamide | 93.7 mg, 19.2% | C1(=CC=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=CC=NC=C1 | C19H19N5OS
